US06417200B1
A) N1-(t-butoxycarbonyl)-1,2-benzenediamine
To a mixture of BOC2O (24.3 g, 111.2 mmol), 1:1 THF:H2O (500 mL) and potassium carbonate was added phenylene diamine (10 g, 92.5 mmol) and stirred for 24 h. The reaction was concentrated and extracted with EtOAc. The organic layer was MgSO4 dried and concentrated. The residue was chromatographed (10% EtOAc/hexanes to 40% EtOAc/hexanes) to give the title compound as a solid (14.56 g, 76%).

reactant | BOC2O | 111.2 mmol, 24.3 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | THF | C1CCOC1 | C4H8O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | phenylene diamine | 92.5 mmol, 10 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | H2O | 500 mL | O | H2O
product | N1-(t-butoxycarbonyl)-1,2-benzenediamine | 14.56 g, 76% | C(C)(C)(C)OC(=O)NC=1C(=CC=CC1)N | C11H16N2O2
